* Schematics Netlist *



Q_Q2         v0 vi -VCC Q2N2907A
Q_Q1         VCC vi v0 Q2N2222
V_V2         VCC 0 10V
V_V1         0 -VCC 10V
R_R1         0 v0  19.41  
V_V3         vi 0  
+SIN 0 10 1000 0 0 0
