* Schematics Netlist *



V_V6         VCC 0 10V
V_V7         0 VEE 10V
V_V5         $N_0001 0  AC 1
+SIN 0 1 1000 0 0 0
Q_Q2         $N_0002 0 $N_0003 Q2N2222
R_R2         VCC $N_0002  5152  
I_I1         $N_0003 VEE DC 1.941mA  
R_R1         VCC $N_0004  5152  
Q_Q1         $N_0004 $N_0001 $N_0003 Q2N2222
