* Schematics Netlist *



V_V1         $N_0001 0 DC 0 AC 1
+SIN 0 1 10000 0 0 0
R_R1         $N_0001 $N_0002  1941  
R_R2         $N_0002 Output  10941  
X_U2A         0 $N_0002 vo vi Output LM324
V_V5         vo 0 15
V_V4         0 vi 15
