* Schematics Netlist *



C_Cc1         $N_0001 $N_0002  100n  
V_V2         VDD 0 10V
C_Cc2         $N_0003 Vo  100n  
C_Cs         0 $N_0004  100n  
R_Rsig         $N_0005 $N_0001  100  
R_RG         0 $N_0002  1000k  
R_RD         $N_0003 VDD  3091.2  
R_RL         0 Vo  100k  
M_M1         $N_0003 $N_0002 $N_0004 $N_0004 MbreakN3           
V_Vsig         $N_0005 0  AC 0
+SIN 0 0.1 1000 0 0 0
V_V3         0 VSS 10V
I_I1         $N_0004 VSS DC 0.001941A  
