* Schematics Netlist *



R_R1         0 $N_0001  1941  
D_D1         $N_0002 $N_0001 D1N4002 
V_V1         $N_0002 0 DC 0 AC 1
+SIN 0 10 60Hz 0 0 0
