* Schematics Netlist *



V_V1         $N_0001 0 DC 0 AC 1
+SIN 0 10 60Hz 0 0 0
R_R1         0 $N_0002  1941  
D_D1         $N_0001 $N_0002 D1N4002 
C_C1         0 $N_0002  40126.6n  
