* Schematics Netlist *



D_D2         Saida $N_0001 D1N4002 
V_V1         $N_0002 0 DC 0 AC 1
+SIN 0 10 60Hz 0 0 0
C_C2         0 Saida  194.1n  
C_C1         $N_0001 $N_0002  194.1n  
D_D1         $N_0001 0 D1N4002 
