* Schematics Netlist *



C_C2         0 output  100n  
R_R2         $N_0001 output  1941  
V_V3         $N_0001 0 DC 0 AC 1
+SIN 0 1 1000 0 0 0
