* Schematics Netlist *



V_V6         VCC 0 10V
V_V5         $N_0001 0  
+SIN 0 10m 1000 0 0 0
V_V7         0 VEE 10V
R_R1         VCC $N_0002  5152  
R_R2         VCC $N_0003  5152  
Q_Q2         $N_0003 0 $N_0004 Q2N2222
Q_Q1         $N_0002 $N_0001 $N_0004 Q2N2222
I_I1         $N_0004 VEE DC 1.941mA  
