* Schematics Netlist *



D_D1         $N_0001 V0p D1N4002 
R_R1         V0n V0p  1941  
V_V1         $N_0001 V0n DC 0 AC 1
+SIN 0 10 60Hz 0 0 0
